US07109227B2
A mixture of amidinothiourea (2.0 g, 16.9 mmol), 2-bromoacetophenone (3.4 g, 16.9 mmol) was heated at reflux in acetone (12 mL) for 4 h. The mixture was cooled to room temperature and removed half of the solvent. The precipitate was filtered, washed with acetone, and dried to give N-(4-phenyl-1,3-thiazol-2-yl)guanidine (3.2 g, 87%).

reactant | amidinothiourea | 16.9 mmol, 2.0 g | C(N)(=N)NC(=S)N | C2H6N4S
reactant | 2-bromoacetophenone | 16.9 mmol, 3.4 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | acetone | 12 mL | CC(=O)C | C3H6O
product | N-(4-phenyl-1,3-thiazol-2-yl)guanidine | 3.2 g, 87% | C1(=CC=CC=C1)C=1N=C(SC1)NC(=N)N | C10H10N4S
